Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
seasonal  / Iodinated Contrast Media - IV Dye
 
Attending: ___
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
___ - EGD with ___ apparatus placed for esophageal varices 
bleed
___ - EGD with removal ___ and placement of 9 bands
 
History of Present Illness:
Mr. ___ is a ___ man with history of locally advanced 
cholangiocarcinoma s/p cisplatin/gemcitabine last treated in 
___ presenting with several weeks of low grade temps, 
cough, DOE and worsening edema.  
Mr. ___ was originally seen at ___ ED 10 days ago 
with complaint of fever and nonproductive cough however was 
found to be afebrile and was discharged home. Unfortunately, his 
symptoms progressed over the last 10 days with daily temps 
ranging 99.6-100.3, worsening DOE, nonproductive cough and chest 
pain with cough. He also notes new bilateral lower extremity 
edema and abdominal distention. Denied nausea, vomiting, 
constipation, diarrhea, dysuria. Today, he presented to clinic 
where he was noted to have BP 105/56, HR 110, temp 98.6, pulse 
ox 89-93% RA. He was noted to have bibasilar crackles, 2+ BLE 
edema.
Labs notable for WBC 8.0, H/H 8.1/24.4 (from 9.2/28.2), plts 86.
Electrolytes notable for sodium of 130 from 138 one month prior.
ALT 22, AST 50, LDH 403 with alk phos 156 and tbili 0.8. Albumin 
2.9 from 3.7 one month ago.    

REVIEW OF SYSTEMS:  
- All reviewed and negative except as noted in the HPI.

 
Past Medical History:
Mr. ___ initially presented with epigastric abdominal pain and
jaundice in ___. He was referred for ERCP performed at an 
OSH, and brushing were suspicious for malignancy. A biliary 
stent was placed. CTA Abd/Pelvis performed at ___ showed an 
ill-defined soft tissue around the common bile duct, consistent 
with cholangiocarcinoma. He was taken to the operating room for
exploratory laparotomy ___. Intraoperatively, cancer nodules
were palpated behind the pancreatic head, consistent with remote
metastatic adenocarcinoma, metastatic to lymph nodes and 
peritoneum. Post-op course was complicated by ileus that 
eventually resolved.

He began gemcitabine/cisplatin ___ and was treated with  
Cyberknife stereotactic radiotherapy ___. He was resumed on
gemcitabine/cisplatin, and then transitioned to gemcitabine 
alone due to persistant cytopenias. He entered a chemotherapy 
break as of ___.  

PAST MEDICAL HISTORY:  
GERD  
Biliary Adenocarcinoma  

 
Social History:
___
Family History:
No family history of pancreatic or biliary cancer
 
Physical Exam:
=========================
EXAM ON ADMISSION
=========================
GENERAL: NAD  
HEENT: EOMI, MMM 
CARDIAC: RRR, normal S1 & S2, without murmurs, S3 or S4  
LUNG: Decreased breath sounds diffusely.
ABD: Soft, NT/ND, no rebound or guarding  
EXT: Trace lower extremity edema. 
NEURO: A&O x 3, No focal deficits.
SKIN: Warm and dry, without rashes 

=========================
EXAM ON DISCHARGE
=========================
n/a
 
Pertinent Results:
==========================
LABS ON ADMISSION
==========================
___ 02:30PM BLOOD WBC-8.9# RBC-2.73* Hgb-8.1* Hct-24.4* 
MCV-89 MCH-29.7 MCHC-33.2 RDW-16.8* RDWSD-54.4* Plt Ct-86*
___ 04:33AM BLOOD Neuts-87.6* Lymphs-6.2* Monos-5.3 
Eos-0.2* Baso-0.1 Im ___ AbsNeut-9.87* AbsLymp-0.70* 
AbsMono-0.60 AbsEos-0.02* AbsBaso-0.01
___ 01:03AM BLOOD ___ PTT-38.8* ___
___ 06:36AM BLOOD ___
___ 02:30PM BLOOD UreaN-15 Creat-0.5 Na-130* K-3.8 Cl-98 
HCO3-23 AnGap-13
___ 02:30PM BLOOD ALT-33 AST-50* LD(LDH)-403* AlkPhos-156* 
TotBili-0.8
___ 07:12PM BLOOD cTropnT-<0.01 proBNP-392*
___ 02:30PM BLOOD Albumin-2.9* Calcium-8.0* Phos-3.3 Mg-2.0
___ 07:12PM BLOOD calTIBC-202* Ferritn-186 TRF-155*

==========================
PERTINENT INTERVAL LABS
==========================
___ 12:11AM BLOOD Lactate-2.4*
___ 12:11AM BLOOD Type-ART Temp-39.7 pO2-52* pCO2-32* 
pH-7.49* calTCO2-25 Base XS-1 Comment-AXILLARY T
___ 04:37AM BLOOD TSH-3.0
___ 04:37AM BLOOD Cortsol-24.0*
___ 01:17PM BLOOD Hapto-243*

==========================
LABS ON DISCHARGE
==========================
n/a

==========================
MICROBIOLOGY
==========================
Blood cultures x12 (___) - no growth
Urine cultures x3 (___) - no growth
Urine legionella (___) - negative
___ BAL - Gram stain, cultures negative
___ Viral cultures - no respiratory viruses
___ - HSV (skin lesion) - positive
Sputum - ___ - negative
___ C. diff - negative

==========================
IMAGING
==========================
___ Chest PA + Lat 
- As compared to the previous radiograph, there are multiple new 
focal parenchymal opacities, in particular at the bases of the 
right upper lobe, in the left lung apex and in the retrocardiac 
lung region.  The findings are highly suggestive for multifocal 
pneumonia.  Moderate cardiomegaly persists. No pleural 
effusions.  No pulmonary edema. Right pectoral Port-A-Cath in 
unchanged position. 

___ Lower extremity noninvasives 
- No evidence of deep venous thrombosis in the bilateral lower 
extremity veins.

___ Chest CT w/o contrast
1.  Heterogeneous ground-glass opacities throughout the lungs 
with 
consolidation of dependent areas of the lungs posteriorly.  In 
conjunction with the prior radiographs, findings are suggestive 
of multifocal pneumonia complicated by ARDS.  Bilateral pleural 
effusions are smaller than commonly seen in cardiogenic 
pulmonary edema making this diagnosis less likely. 
2.  Small ascites is new since ___. 

___ KUB
1.  Absence of air in the biliary tree suggests biliary stent 
occlusion. 
2.  Nonspecific bowel gas pattern without evidence of ileus or 
obstruction. 

___ RUQ Ultrasound
1. At least 3 stents in the bile ducts. No evidence of 
intrahepatic biliary ductal dilatation. 
2. Moderate ascites. 

___ Abd/pelvis CT with PO contrast:
1. Wall thickening of the cecum and transverse colon may reflect 
colitis. Absence of small bowel wall thickening makes third 
spacing less likely 
explanation. 
2. Lack of opacification in the main portal vein and superior 
SMV represents thrombosis.  On review of prior ultrasound from 
___, main portal vein was not well imaged and patency 
cannot be established. Prior MR had shown thrombosed portal 
vein. 
3. Small to moderate ascites. Diffuse soft tissue and scrotal 
edema consistent with anasarca.  No evidence of IVC compression. 

4.  Common bile duct stent in unchanged position. Central 
intrahepatic biliary duct dilation is similar to ___. 
5.  Small right inguinal hernia containing anterior wall of the 
bladder 
without evidence of strangulation. 
6.  Heterogeneous ground-glass opacities and dependent 
consolidation in 
bilateral lower lobes are similar compared to ___, and 
likely reflect ARDS and/or pneumonia. 

___ Head CT w/o contrast:
1. No evidence for acute intracranial abnormalities. 
2. Lentiform fluid collection in the right parietal/temporal 
scalp, extending to the retroauricular region.  It is not clear 
whether this represents a resolving hematoma.  Evaluation for 
associated infection/inflammation is limited by diffuse 
subcutaneous edema in the dependent suboccipital soft tissues 
bilaterally, which may be related to fluid third spacing. 
3. Fluid partially opacifying right greater than left mastoid 
air cells and left greater than right middle ear cavities may be 
related to endotracheal and orogastric intubation. 

___ Duplex doppler u/s abd:
1. No flow visualized in the main or left portal veins, 
consistent with 
thrombus.  Patent right anterior and posterior portal veins. 
2. Nonocclusive thrombus within the proximal superior mesenteric 
vein. 

___ CXR:
ET tube tip is 4.5 cm above the carinal.  Port-A-Cath catheter 
tip is at the cavoatrial junction.  Heart size and mediastinum 
are stable.  Widespread parenchymal consolidations are 
unchanged. 

 
Brief Hospital Course:
#Hypoxic respiratory failure/ ARDS- The patient was initially 
found to have multifocal pneumonia and was started on zosyn and 
azithromycin. On transfer to the ICU, this was broadened to 
include vanco. A CXR was concerning for ARDS. The patient was 
intubated, paralyzed, and started on low tidal volume 
ventilation. He was placed on a triadyne bed to allow him to be 
rotated at steep angles. His paralysis was able to be weaned. 
His underlying pneumonia was treated with a 5-day course of 
azithromycin. He was initially started on vanc/zosyn, and then 
transitioned to vanc/cefepime/flagyl for better coverage of a 
potential intra-abdominal infection. He completed a 10 day 
course in total. The cefepime was continued for SBP prophylaxis. 
 The patient was aggressively diuresed, until his course was 
complicated by an upper GI bleed (see below). Following his GI 
bleed, the patient demonstrated tachycardia and hypotension.  
With continued overall clinical decline, on background of 
advanced malignancy, discussions with the family and HCP reslted 
in decision to transition to CMO.  The patient was made comfort 
measures only after speaking with the family. The patient was 
maintained on a t-piece while having active GI bleeding. He 
expired at 2100 on ___.

#Severe sepsis- On admission, the patient was found to be 
hypotensive, tachycardic, tachypneic with leukocytosis with 
known pneumonia on CXR. Blood cultures were drawn, the patient 
was given vanc/zosyn initially, and norepinephrine was started. 
An A-line and central line were placed. After several days he 
continued to be persistently tachycardic, and his pressor was 
changed to phenylephrine, with improvement in heart rates. He 
was subsequently able to be weaned from pressors. Though 
pneumonia remained the mostly likely source, intraabdominal was 
also considered given the patient's history of 
cholangiocarcinoma. For better coverage, his antibiotics were 
changed from vanc/zosyn to vanc/cefepime/flagyl. He also 
completed a 5 day course of azithromycin. He remained 
hemodynamically stable until his GI bleed (see below).

#GI Bleed - Early morning of ___, the patient was noted to have 
around 150cc of bloody bilious material from NG tube. His h/h 
was stable, and he was hemodynamically stable. Later in the 
afternoon, he was noted to have bloody secretions from his 
mouth. ENT was consulted, and did direct laryngoscopy which 
visualized blood coming up GI tract, nothing from posterior 
pharynx. GI was consulted, and the patient received an 
octreotide bolus and was started on a drip. GI performed bedside 
EGD and found bleeding esophageal varices, and a Minnesota tube 
was placed for tamponade of the varices. The patient was 
transfused 3 units PRBC and 2 units FP, with no increase in h/h, 
but hemodynamically stable. On ___, the Minnesota tube was 
removed, and banding of the esophageal varices was done with 9 
bands placed. Following the procedure, the patient required 2u 
pRBC for a h/h of ___, with an appropriate response. However, 
he was noted to have more blood coming from his mouth on ___, 
and he became tachycardic and hypotensive. A discussion was held 
with the patient's family, and he was made comfort measures 
only. Mechanical ventilation was stopped, and he expired as 
above.  

#Portal vein thrombosis - CT abd on ___ showed a filling defect 
in portal vein, concerning for portal vein thrombosis. A doppler 
ultrasound confirmed portal vein thrombosis (no flow on Left) 
with partial occlusion of SMV. 4T score 5, and per heme 
recommendations an argatroban drip was started and PF4 
antibodies were sent. These came back negative, and the 
argatroban drip was stopped. Upon further investigation, it 
appeared from previous imaging that the portal vein thrombosis 
was chronic, though it was unclear if it had progressed since an 
CT in ___.  A heparin drip was not started as the patient was 
noted to have some blood in his OG tube the following night, 
with an esophageal bleed.

#Thrombocytopenia- On admission, patient noted to be 
thrombocytopenic to ___. Thought to be secondary to locally 
invasive cholangiocarcinoma. Platelets initially improved, but 
then began to downtrend 5 days into his hospitalization. As the 
patient had been on ___ and he was noted to have portal vein 
thrombosis, HIT was a concern and PF4 antibodies were sent. 
These were negative. His platelets remained low, and then 
continued to fall in the setting of a GI bleed. He received a 
unit of platelets on ___.

#Cholangiocarcinoma- Last treatment in ___, with LFT 
abnormalities now, no evidence of acute hepatic decompensation. 
Throughout his ICU stay, his Tbili remained stable, ranging from 
0.8 to 2.4. LFTs remained stable. ERCP was consulted, and 
recommended no immediate interventions. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Guaifenesin ER 600 mg PO Q12H:PRN Cough 
2. Acetaminophen 650 mg PO Q6H:PRN Pain 
3. NyQuil D (doxylamin-PSE-DM-acetaminophen) ___ 
mg/15 mL oral QHS:PRN Congestion 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
n/a
 
Discharge Condition:
expired
 
Discharge Instructions:
n/a
 
Followup Instructions:
___